US07319104B2
Ethyl 2-[4-(2-{(5-acetylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate
Similarly prepared from ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]propanoate and 2-chloro-5-acetyl-pyridine.

reactant | ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]propanoate | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)CCNCC1=CC=C(C=C1)OC(F)(F)F | C22H26F3NO4
reactant | 2-chloro-5-acetyl-pyridine | ClC1=NC=C(C=C1)C(C)=O | C7H6ClNO
product | Ethyl 2-[4-(2-{(5-acetylpyridin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | C(C)(=O)C=1C=CC(=NC1)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)OC(F)(F)F | C29H31F3N2O5
